US04566876
Preparation of 2-(2',4'-dinitro-5'-methoxyphenoxy) ethanol
To 20.0 g (0.076 moles) of 2-(5'-chloro-2',4'-dinitrophenoxy) ethanol in 200 ml methanol is added 10.8 g (0.20 moles) sodium methoxide, with stirring. The mixture is heated to reflux. TLC (ethyl acetate) after 6 hours shows the reaction is complete. The hot mixture is poured into 1 liter ice. The pale yellow precipitate is collected by vacuum filtration, washed with water and dried in a vacuum oven at 50° C. Yield is 16.3 g (82.9%), m.p. 137°-140°.

reactant | 2-(5'-chloro-2',4'-dinitrophenoxy) ethanol | 0.076 moles, 20.0 g | ClC=1C(=CC(=C(OCCO)C1)[N+](=O)[O-])[N+](=O)[O-] | C8H7ClN2O6
reactant | sodium methoxide | 0.20 moles, 10.8 g | C[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 200 ml | CO | CH4O
product | 2-(2',4'-dinitro-5'-methoxyphenoxy) ethanol | [N+](=O)([O-])C1=C(OCCO)C=C(C(=C1)[N+](=O)[O-])OC | C9H10N2O7
